US04203988
A. N,N-bis(benzyloxyethyl)benzylamine
Diethanolamine (42.0 g., 0.4 mole) is stirred under nitrogen in 800 ml. of dry DMF at 0° C. and 50% NaH in mineral oil (57.6 g., 1.2 mole) is added in small portions. After the sodium hydride has reacted, benzyl bromide (205.3 g., 1.2 mole) is added dropwise. The mixture is allowed to come to room temperature while stirring overnight. The reaction mixture is poured into water and is extracted with ether. The ether solution is extracted with dilute HCl. The acid extract is basified with NaOH and extracted with ether. Crude product is recovered by drying, filtering and evaporating the ether. The residual liquid (138.4 g.) is subjected to distillation at 290° C. and 0.01 mm. to remove volatile impurities. This gives 114.4 g. of amber oil.

reactant | Diethanolamine | 0.4 mole, 42.0 g | N(CCO)CCO | C4H11NO2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | NaH | [H-].[Na+]
reactant | benzyl bromide | 1.2 mole, 205.3 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | O | H2O
product | N,N-bis(benzyloxyethyl)benzylamine | C(C1=CC=CC=C1)OCCN(CCOCC1=CC=CC=C1)CC1=CC=CC=C1 | C25H29NO2
